US04638000
In 5 ml of 5 N hydrogen chloride-ethyl acetate solution is dissolved 0.12 g of tert-butyl 3(R)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and the solution is left standing at room temperature for 3 hours. Petroleum ether (70 ml) is added to the solution and the deposited precipitate is dried under reduced pressure to give 0.10 g of 3(R)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrochloride as a colorless powder.

reactant | tert-butyl 3(R)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.12 g | C(C)OC(=O)[C@H](CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C34H43N3O7S
reactant | hydrogen chloride-ethyl acetate | 5 N, 5 ml | C(C)(=O)OCC.Cl
product | 3(R)-[1(S)-ethoxycarbonyl-8-phthalimidooctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrochloride | 0.10 g | Cl.C(C)OC(=O)[C@H](CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)O)C=CC=C1 | InChI=1S/C30H35N3O7S.ClH/c1-2-40-30(39)22(31-23-19-41-25-16-10-9-15-24(25)33(29(23)38)18-26(34)35)14-6-4-3-5-11-17-32-27(36)20-12-7-8-13-21(20)28(32)37;/h7-10,12-13,15-16,22-23,31H,2-6,11,14,17-19H2,1H3,(H,34,35);1H/t22-,23-;/m0./s1
